US05922887
1-[4-[[-(3-Methoxyphenyl)]amino]benzoyl]pyrrolidine
2 g (8.2 mmol) of 4-[N-(3-methoxyphenyl)aminobenzoic acid, 2.2 g (16.4 mmol) of N-hydroxybenzotriazole and 1 ml (12.3 mmol) of pyrrolidine were dissolved in 40 ml of a 7:3 mixture of THF/CH3CN, under a nitrogen atmosphere. The solution was cooled to 0° C. and 3.4 g (16.4 mmol) of dicyclohexylcarbodiimide dissolved in 20 ml of CH2Cl2 were added. The reaction mixture was allowed to warm to room temperature during 1 h., stirred an additional hour, then the precipitate was filtered off and the solvent was removed in vacuo. The residue was taken up with water and extracted with AcOEt, the organic layer was dried over Na2SO4 and the solvent removed in vacuo. The resulting crude mixture was purified by flash chromatography (AcOEt), yielding 2.4 g of the title compound.

reactant | N-(3-methoxyphenyl)aminobenzoic acid | COC=1C=C(C=CC1)NC1=C(C(=O)O)C=CC=C1 | C14H13NO3
reactant | N-hydroxybenzotriazole | 16.4 mmol, 2.2 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | pyrrolidine | 12.3 mmol, 1 ml | N1CCCC1 | C4H9N
reactant | dicyclohexylcarbodiimide | 16.4 mmol, 3.4 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | THF CH3CN | C1CCOC1.CC#N
solvent | CH2Cl2 | 20 ml | C(Cl)Cl | CH2Cl2
product | 1-[4-[[-(3-Methoxyphenyl)]amino]benzoyl]pyrrolidine | 2.4 g | COC=1C=C(C=CC1)NC1=CC=C(C(=O)N2CCCC2)C=C1 | C18H20N2O2
